US07642264B2
5-{2-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-4-yl}-pyridin-2-ylamine
Step 3) The title compound was prepared from the above described 4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-3-yl]-2-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine (0.250 g, 1.29 mmol) by heating with hydroxylamine hydrochloride (259 mg, 3.86 mmol) in a mixture of aqueous NaOH (1.5 M, 0.86 mL, 1.29 mmol) in 1-propanol (2.5 mL) in a sealed tube at 120° C. for 4 h. Cooled to rt, added some water and extracted twice with AcOEt, dried over Na2SO4, filtered off and evaporated totally. The crude material was triturated with ether to give the title compound (0.140 g, 67%) as an off-white solid. MS (ISP) 408.3 [(M+H)+]; mp 258° C.

reactant | 4-[6-(2,5-dimethyl-pyrrol-1-yl)-pyridin-3-yl]-2-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine | 1.29 mmol, 0.250 g | CC=1N(C(=CC1)C)C1=CC=C(C=N1)C1=NC(=NC=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C28H22F3N5
reactant | hydroxylamine hydrochloride | 3.86 mmol, 259 mg | Cl.NO
reactant | NaOH | 1.29 mmol, 1.5 M, 0.86 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | 1-propanol | 2.5 mL | C(CC)O | C3H8O
product | 5-{2-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-4-yl}-pyridin-2-ylamine | 0.140 g, 67% | CC1=CC(=CC(=N1)C1=NC=CC(=N1)C=1C=CC(=NC1)N)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N5
